US20010000513A1
A stirred suspension of 4-(4′-chloro-biphenyl-4-yl)-4-oxo-butyric acid (0.578 g, 0.00200 mol) in a solution of dimethylhydrazine (0.46 mL, 0.0061 mol) in absolute ethanol (6 mL) was refluxed under nitrogen for 2.4 hours and allowed to cool. The volatiles were rotary evaporated, and the residue dissolved (CH2Cl2) and purified by column chromatography on silica gel, eluting with dichloromethane-methanol (24:1) to give 0.33 g of 4-(4′-chloro-biphenyl-4-yl)-4-(dimethylhydrazono)-butyric acid as a yellow solid; mp 158-160° C.

reactant | 4-(4′-chloro-biphenyl-4-yl)-4-oxo-butyric acid | 0.00200 mol, 0.578 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13ClO3
reactant | dimethylhydrazine | 0.0061 mol, 0.46 mL | CNNC | C2H8N2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4-(4′-chloro-biphenyl-4-yl)-4-(dimethylhydrazono)-butyric acid | 0.33 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=NN(C)C | C18H19ClN2O2
